US07696231B2
d) Preparation of N′-[5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene]-4-[4-(4-morpholinyl-methyl)phenoxy]benzohydrazide
Into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 4-[4-(1,3-oxazinan-3-ylmethyl)phenoxy]benzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 194 mg of the title compound (67%) as a yellow solid in 98.9% purity by HPLC (Rt: 3.27, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-[4-(1,3-oxazinan-3-ylmethyl)phenoxy]benzohydrazide | O1CN(CCC1)CC1=CC=C(OC2=CC=C(C(=O)NN)C=C2)C=C1 | C18H21N3O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | N′-[5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene]-4-[4-(4-morpholinyl-methyl)phenoxy]benzohydrazide | 194 mg, 67% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC=C(C=C1)OC1=CC=C(C=C1)CN1CCOCC1)=O | C26H23IN4O4
